US08871753B2
Step B: 3-[(5-Chloro-4-{[3-(2-hydroxyethyl)phenyl]amino}pyrimidin-2-yl)amino]phenol
A solution of 2-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}ethanol (0.10 g, 0.35 mmol) and 3-aminophenol (58 mg, 0.53 mmol) in 1,4-dioxane (3.5 mL) was treated with p-toluenesulfonic acid monohydrate (54 mg, 0.28 mmol) and heated at 100° C. for 1 h. The reaction mixture was treated with additional 3-aminophenol (19 mg, 0.18 mmol) and heated at 100° C. for 1 h. The reaction mixture was poured into 10% potassium carbonate (20 mL) and extracted with ethyl acetate (2×50 mL). The combined organic layers were washed with brine (25 mL), dried over anhydrous sodium sulfate, filtered, and evaporated to a crude brown oil. This material was purified by flash column chromatography to give the desired product (0.12 g, 96%) as a light brown solid. LCMS for C18H18ClN4O2 (M+H)+: m/z=357.0.

reactant | 2-{3-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}ethanol | 0.35 mmol, 0.10 g | ClC1=NC=C(C(=N1)NC=1C=C(C=CC1)CCO)Cl | C12H11Cl2N3O
reactant | 3-aminophenol | 0.53 mmol, 58 mg | NC=1C=C(C=CC1)O | C6H7NO
reactant | p-toluenesulfonic acid monohydrate | 0.28 mmol, 54 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | 3-aminophenol | 0.18 mmol, 19 mg | NC=1C=C(C=CC1)O | C6H7NO
reactant | potassium carbonate | 20 mL | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 3.5 mL | O1CCOCC1 | C4H8O2
product | 3-[(5-Chloro-4-{[3-(2-hydroxyethyl)phenyl]amino}pyrimidin-2-yl)amino]phenol | 0.12 g, 96% | ClC=1C(=NC(=NC1)NC=1C=C(C=CC1)O)NC1=CC(=CC=C1)CCO | C18H17ClN4O2
